US06177423B1
Potassium 2-Hydroxy-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinoline-6-sulfonate
4-Sulfo-1,8-naphthalic anhydride potassium salt (2.0 g, 6.2 mmol) and hydroxylamine hydrochloride (0.9 g, 12.4 mmol) were reacted in pyridine (50 mL) following the procedure of Example 1. The solids formed were filtered, washed with ethanol, and dried to give 2.1 g of the title compound, mp>380° C.;

reactant | 4-Sulfo-1,8-naphthalic anhydride potassium salt | 6.2 mmol, 2.0 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)S(=O)(=O)[O-].[K+]
reactant | hydroxylamine hydrochloride | 12.4 mmol, 0.9 g | Cl.NO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | Potassium 2-Hydroxy-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinoline-6-sulfonate | 2.1 g | ON1C(C2=CC=CC=3C2=C(C1=O)C=CC3S(=O)(=O)[O-])=O.[K+] | InChI=1S/C12H7NO6S.K/c14-11-7-3-1-2-6-9(20(17,18)19)5-4-8(10(6)7)12(15)13(11)16;/h1-5,16H,(H,17,18,19);/q;+1/p-1
